US04743614
A solution of (2R,3S)-2-[[(2S)-2-benzyloxycarbonylamino-3-[N-[bis(4-methoxyphenyl)methyl]carbamoyl]propionyl]amino]-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid (635 mg) and 30% hydrogen bromide in acetic acid (5 ml) was stirred for 2 hours at room temperature and the mixture was poured into a mixture of ice-water (20 ml) and ethyl acetate (20 ml). The aqueous phase was separated and subjected to a column of Dowex 50W x 8 (H+, 20 ml). The column was washed with water and the elution was carried out with 2.8% aqueous ammonia. The object fractions were collected and evaporated in vacuo. The residue was dissolved in water (50 ml) and lyophilized to give (2R,3S)-2-[[(2S)-2-amino-3-carbamoylpropionyl]amino]-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid (190 mg) as a white powder.

reactant | (2R,3S)-2-[[(2S)-2-benzyloxycarbonylamino-3-[N-[bis(4-methoxyphenyl)methyl]carbamoyl]propionyl]amino]-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid | 635 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N[C@@H](C(=O)O)[C@H](C)N[C@@H](CC=1N=CNC1)C(=O)O)CC(NC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C37H42N6O10
reactant | hydrogen bromide | Br | BrH
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (2R,3S)-2-[[(2S)-2-amino-3-carbamoylpropionyl]amino]-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid | 190 mg | N[C@H](C(=O)N[C@@H](C(=O)O)[C@H](C)N[C@@H](CC=1N=CNC1)C(=O)O)CC(N)=O | C14H22N6O6
